US08609647B2
(3)-(1) Optically-Active Compound of [benzyl-(2-chloro-1-methylethyl)-amino]acetic acid tert-butyl ester
To a solution of an optically-active compound of [benzyl-(2-hydroxy-1-methylethyl)-amino]acetic acid tert-butyl ester (160.0 g) in chloroform (640 ml) cooled to 0° C. was added dropwise thionyl chloride (50.0 ml), and the mixture was stirred at 60° C. for 2 hours. The reaction mixture was cooled to 0° C. Then, thereto were added saturated aqueous sodium bicarbonate solution (1000 ml) and chloroform (100 ml), and the mixture was stirred. The separated organic layer was washed with saturated aqueous sodium chloride solution (500 ml), and the aqueous layer was extracted with chloroform (450 ml) again. The combined organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure to give the titled compound (172.9 g).

reactant | [benzyl-(2-hydroxy-1-methylethyl)-amino]acetic acid tert-butyl ester | 160.0 g | C(C)(C)(C)OC(CN(C(CO)C)CC1=CC=CC=C1)=O | C16H25NO3
reactant | thionyl chloride | 50.0 ml | S(=O)(Cl)Cl | Cl2OS
reactant | sodium bicarbonate | 1000 ml | C([O-])(O)=O.[Na+]
solvent | chloroform | 640 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | [benzyl-(2-chloro-1-methylethyl)-amino]acetic acid tert-butyl ester | 172.9 g | C(C)(C)(C)OC(CN(C(CCl)C)CC1=CC=CC=C1)=O | C16H24ClNO2
